US08202858B2
2-piperazin-1-yl-1-p-tolyl-ethanone Dihydrochloride
4-(2-Oxo-2-p-tolyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester from Example E36.1 (661 mg, 2.08 mmol) was dissolved in 4M HCl solution in dioxan (25 ml) at 0° C. and the mixture was stirred for 45 min at room temperature. Solvents were concentrated in vacuo and azeotroped with diethyl ether to yield the title compound (536 mg, 88%).

reactant | 4-(2-Oxo-2-p-tolyl-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(C1=CC=C(C=C1)C)=O | C18H26N2O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 2-piperazin-1-yl-1-p-tolyl-ethanone Dihydrochloride | 536 mg, 88% | Cl.Cl.N1(CCNCC1)CC(=O)C1=CC=C(C=C1)C | InChI=1S/C13H18N2O.2ClH/c1-11-2-4-12(5-3-11)13(16)10-15-8-6-14-7-9-15;;/h2-5,14H,6-10H2,1H3;2*1H
